US09260436B2
A mixture of 1.91 g of 3-bromo-1,1,1-trifluoropropan-2-one and 5 ml of DME was added to a mixture of 1.74 g of 2-amino-5-bromopyrimidine and 15 ml of DME, and the mixture was stirred at room temperature for 1 day. The precipitated solid was taken by filtration, washed with 10 ml of DME, and dried to obtain 1.02 g of 6-bromo-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyrimidin-2-ol hydrobromide.

reactant | 3-bromo-1,1,1-trifluoropropan-2-one | 1.91 g | BrCC(C(F)(F)F)=O | C3H2BrF3O
reactant | 2-amino-5-bromopyrimidine | 1.74 g | NC1=NC=C(C=N1)Br | C4H4BrN3
solvent | DME | 15 ml | COCCOC | C4H10O2
solvent | DME | 5 ml | COCCOC | C4H10O2
product | 6-bromo-2-trifluoromethyl-2,3-dihydroimidazo[1,2-a]pyrimidin-2-ol hydrobromide | 1.02 g | Br.BrC=1C=NC=2N(C1)CC(N2)(O)C(F)(F)F | InChI=1S/C7H5BrF3N3O.BrH/c8-4-1-12-5-13-6(15,7(9,10)11)3-14(5)2-4;/h1-2,15H,3H2;1H
